US07696200B2
3-Amino-4-tert-butoxycarbonylamino-benzoic acid ethyl ester (3.1 g, 11.1 mmol) was dissolved in dimethylformamide (50 mL) and treated with NaH (˜55% dispersion in oil) (0.3 g, 12.2 mmol). The reaction mixture was stirred at room temperature for 1 hour, dibromoethane (8.3 g, 3.8 mL, 44.2 mmol) was then added, and the mixture stirred for further 1 hour at room temperature. K2CO3 (6.11 g, 44.2 mmol) was added and the reaction mixture was stirred at 70° C. for 17 hours. A further aliquot of NaH (˜55% dispersion in oil) (0.3 g, 12.2 mmol) was added and, 3 hours later, a further aliquot of dibromoethane (2.1 g, 11.1 mmol). Stirring was continued at 70° C. for 18 hours. Water was added and the mixture was extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate and evaporated. The residue was purified by flash chromatography, yielding 3,4-dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester 6-ethyl ester as a light yellow solid, 1.0 g (29%), MS (ISP): m/e=307.3 (M+H+.); δH (300 MHz; CDCl3) 7.58 (1H, d), 7.34 (1H, d), 7.25 (1H, s), 4.33 (2H, q), 4.09 (1H, bs), 3.79 (2H, m), 3.43 (2H, m), 1.53 (9H, s), 1.37 (3H, t).

reactant | 3-Amino-4-tert-butoxycarbonylamino-benzoic acid ethyl ester | 11.1 mmol, 3.1 g | C(C)OC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)N)=O | C14H20N2O4
reactant | NaH | 12.2 mmol, 0.3 g | [H-].[Na+]
reactant | dibromoethane | 44.2 mmol, 3.8 mL, 8.3 g | BrC(C)Br | C2H4Br2
reactant | K2CO3 | 44.2 mmol, 6.11 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaH | 12.2 mmol, 0.3 g | [H-].[Na+]
reactant | dibromoethane | 11.1 mmol, 2.1 g | BrC(C)Br | C2H4Br2
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3,4-dihydro-2H-quinoxaline-1,6-dicarboxylic acid 1-tert-butyl ester 6-ethyl ester | C(C)OC(=O)C=1C=C2NCCN(C2=CC1)C(=O)OC(C)(C)C | C16H22N2O4
